US08471005B2
A solution of] (4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid tert-butyl ester (73 mg, 0.13 mmol) in 2 mL of 4N HCl in dioxane was stirred at RT. After 18 h, solvent was evaporated and the mixture was triturated with ether. A solid was obtained which was filtered, washed with ether (twice) and dried. The product, (4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid was isolated as a pale yellow hygroscopic solid (54 mg, 82%). LCMS (E/I+) 488 (M+H). NMR 1H (DMSO-d6)-10.1 (br s, 1H), 8.96 (s, 1H0, 8.05 (d, 1H, J=8.24 Hz), 7.81 (d, 1H, J=7.49 Hz), 7.68 (s, 1H), 7.46 (m, 1H), 7.41 (d, 1H, J=7.96 Hz), 7.21 (d, 1H, J=8.34 Hz), 7.11 (d, 1H, J=7.45 Hz), 7.08 (m, 1H), 6.98 (m, 2H), 6.70 (d, 1H, J=7.32 Hz), 4.16 (br s, 2H), 4.05-3.1 (series of m and s along with the water peak, 10H), 2.8 (m, 1H), 2.03 (m, 4H).

reactant | (4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid tert-butyl ester | 0.13 mmol, 73 mg | C(C)(C)(C)OC(CN1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC)=O | C31H37N5O4
solvent | HCl | 4N, 2 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetic acid | COC=1C=C(C=CC1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)C2CCN(CC2)CC(=O)O | C27H29N5O4
